US09193744B2
A round bottom flask was charged with 1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one (14.419 g, 52.0 mmol) and THF (200 mL). The solution was cooled to about −77° C. and then 1 M LiHMDS solution (54.6 mL, 54.6 mmol) was added over about 30 min, keeping the internal temp below about −75° C. After complete addition of the LiHMDS the mixture was stirred for about 5 min, the cold bath was removed and the mixture was allowed to warm to about 0° C. (over about 1 h). The mixture was re-cooled to about −65° C. then acetaldehyde (14.6 mL, 260 mmol) was added. The cold bath was removed and the mixture was allowed to warm to about 0° C. brine (50 mL) and water (50 mL) were added to the mixture, then collected the organic layer. Extracted the aqueous layer with EtOAc (2×50 mL). Combined organics and dried over MgSO4 and concentrated in vacuo. Purified by 120 g silica column, eluting with 20-100% EtOAc/DCM to provide 5-ethylidene-1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one (83, R1=4-Pyridyl, R2′=Methyl) (12.3 g, 78%); LC/MS, method 3, Rt=2.17 min MS m/z 304 (M+H)+, 1H NMR (400 MHz, DMSO) δ 8.75-8.72 (m, 2H), 8.50-8.49 (m, 1H), 8.13 (s, 1H), 7.98-7.95 (m, 2H), 7.75 (s, 1H), 7.18-7.11 (q, J=7.3 Hz, 1H) 2.93-2.85 (m, 2H), 2.35-2.22 (m, 2H), 2.04-1.95 (m, 2H), 1.90-1.85 (d, J=7.4 Hz, 3H).

reactant | 1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one | 52.0 mmol, 14.419 g | N1=CC=C(C=C1)N1N=CC2=CC3=C(C=C12)CCCC(C3)=O | C17H15N3O
reactant | LiHMDS | 54.6 mmol, 1 M, 54.6 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | acetaldehyde | 260 mmol, 14.6 mL | C(C)=O | C2H4O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 5-ethylidene-1-(pyridin-4-yl)-5,7,8,9-tetrahydrocyclohepta[f]indazol-6(1H)-one | C(C)=C1C(CCCC2=C1C=C1C=NN(C1=C2)C2=CC=NC=C2)=O | C19H17N3O
